US07700594B2
2-Phenyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-benzothiazole
A stirred solution of 5-bromo-2-phenylbenzothiazole (0.500 g, 0.00172 mol), bis(pinacolato)diboron (0.508 g, 0.00200 mol), 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride (0.044 g, 0.10 mmol), Pd(OAc)2 (0.019 g, 0.086 mmol) and AcOK (0.423 g, 0.00431 mol) in anhydrous THF (9.78 mL, 0.121 mol) was heated at 72° C. under Argon for 29 h. The mixture filtrate was concentrated in vacuo and the solids triturated multiple times with hexanes to give the title compound. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=1.39 (s, 12H), 7.49-7.56 (m, 3H), 7.83 (dd, J=8.08, 1.01 Hz, 1H), 7.92 (d, J=7.33 Hz, 1H), 8.12-8.18 (m, 2H) and 8.60 (s, 1H); MS (ES+): m/z 337.91 [MH+].

reactant | 5-bromo-2-phenylbenzothiazole | 0.00172 mol, 0.500 g | BrC=1C=CC2=C(N=C(S2)C2=CC=CC=C2)C1 | C13H8BrNS
reactant | bis(pinacolato)diboron | 0.00200 mol, 0.508 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 1,3-bis(2,6-diisopropylphenyl)imidazol-2-ylidene hydrochloride | 0.10 mmol, 0.044 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)N1C(N(C=C1)C1=C(C=CC=C1C(C)C)C(C)C)=[ClH] | C27H37ClN2
reactant | AcOK | 0.00431 mol, 0.423 g | C(=O)(C)O[K]
reactant | THF | 0.121 mol, 9.78 mL | C1CCOC1 | C4H8O
catalyst | Pd(OAc)2 | 0.086 mmol, 0.019 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2-Phenyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-benzothiazole | C1(=CC=CC=C1)C=1SC2=C(N1)C=C(C=C2)B2OC(C(O2)(C)C)(C)C | C19H20BNO2S
